US09278953B2
To a mixture of 6-bromo-4-chloro-1H-indazole (4.0 g, 17.4 mmol), cesium hydroxide monohydrate (23.3 g, 139 mmol), tetrabutylammonium hydrogensulfate (1.36 g, 3.99 mmol) in anhydrous THF (80 mL) was added a solution of methyl iodide (9.86 g, 69.4 mmol) in THF (10 mL) dropwise at r.t. The reaction mixture was stirred for 15 min at r.t. Water was added to the reaction mixture, and the aqueous layer was extracted with EtOAc. The organic layer was concentrated, and the crude reside was purified by silica gel column chromatography (EtOAc/Heptane 0 to 100% gradient as eluent) to afford 6-Bromo-4-chloro-1-methyl-1H-indazole (2.65 g, 62%). 1H NMR (600 MHz, methanol-d4) δ 4.05 (s, 3H), 7.32 (d, 1H), 7.79 (s, 1H), 8.03 (s, 1H).

reactant | 6-bromo-4-chloro-1H-indazole | 17.4 mmol, 4.0 g | BrC1=CC(=C2C=NNC2=C1)Cl | C7H4BrClN2
reactant | cesium hydroxide monohydrate | 139 mmol, 23.3 g | O.[OH-].[Cs+]
reactant | methyl iodide | 69.4 mmol, 9.86 g | CI | CH3I
reactant | Water | O | H2O
catalyst | tetrabutylammonium hydrogensulfate | 3.99 mmol, 1.36 g | S(=O)(=O)(O)[O-].C(CCC)[N+](CCCC)(CCCC)CCCC
solvent | THF | 80 mL | C1CCOC1 | C4H8O
solvent | THF | 10 mL | C1CCOC1 | C4H8O
product | 6-Bromo-4-chloro-1-methyl-1H-indazole | 2.65 g, 62% | BrC1=CC(=C2C=NN(C2=C1)C)Cl | C8H6BrClN2
